US07893060B2
6-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole
To a solution of 4-bromo-6-fluoro-1H-indole (6.0 g, 25.53 mmol) and bis(pinacolato)diboron (9.7 g, 38.19 mmol) in anhydrous DMSO (120 mL) were added KOAc (7.5 g, 76.41 mmol) and [1,1′-bis(diphenylphosphine)ferrocene]-dichloropalladium (1.0 g, 1.22 mmol). The mixture was heated at 80° C. for 18 h. The reaction mixture was cooled to RT and pardoned between EtOAc and H2O. The organic layer was washed successively with H2O and brine, dried (Na2SO4) and concentrated in vacuo. The resulting residue was purified by column chromatography (silica gel, pentane:EtOAc 75:25) to provide the title compound as a white solid (4.6 g, 61%).

reactant | 4-bromo-6-fluoro-1H-indole | 25.53 mmol, 6.0 g | BrC1=C2C=CNC2=CC(=C1)F | C8H5BrFN
reactant | bis(pinacolato)diboron | 38.19 mmol, 9.7 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 76.41 mmol, 7.5 g | CC(=O)[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 120 mL | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | 6-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | 4.6 g, 61% | FC1=CC(=C2C=CNC2=C1)B1OC(C(O1)(C)C)(C)C | C14H17BFNO2
